* /home/drako/esim-workspace/and_gate/and_gate.cir

m2  net-_m1-pad3_ /a_in net-_m2-pad3_ net-_m2-pad3_ mosfet_n
m3  net-_m2-pad3_ /b_in gnd gnd mosfet_n
m1  /vdd /a_in net-_m1-pad3_ /vdd mosfet_p
m4  /vdd /b_in net-_m1-pad3_ /vdd mosfet_p
m5  /y_out net-_m1-pad3_ gnd gnd mosfet_n
m6  /vdd net-_m1-pad3_ /y_out /vdd mosfet_p
v1  /vdd gnd 3.3v
* u1  /b_in /a_in /y_out port
.tran 1e-09 12e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
