* /home/drako/esim-workspace/fulladder/fulladder.cir

.include xor_gate.sub
.include halfadder.sub
x1 net-_x1-pad1_ net-_x1-pad2_ /carry xor_gate
* u1  /cin /ain /bin /sum /carry port
x2 /ain /bin net-_x2-pad3_ net-_x1-pad2_ halfadder
x3 /cin net-_x2-pad3_ /sum net-_x1-pad1_ halfadder
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
