* /home/drako/esim-workspace/halfadder/halfadder.cir

.include xor_gate.sub
.include and_gate.sub
* u1  /carry /sum port
* u2  /a0 /b0 port
x2 /a0 /b0 /carry and_gate
x1 /a0 /b0 /sum xor_gate
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
