* /home/drako/esim-workspace/wallace2tree/wallace2tree.cir

.include halfadder.sub
.include and_gate.sub
x2 /b0 /a0 /z0 and_gate
x1 /b0 /a1 net-_x1-pad3_ and_gate
x3 /b1 /a0 net-_x3-pad3_ and_gate
x4 /b1 /a1 net-_x4-pad3_ and_gate
x5 net-_x3-pad3_ net-_x1-pad3_ /z1 net-_x5-pad4_ halfadder
x6 net-_x5-pad4_ net-_x4-pad3_ /z2 /z3 halfadder
* u1  /a1 /a0 /b0 /b1 /z0 /z1 /z2 /z3 port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
